US07585880B2
3-{4-[(4-{(2-phenylethyl)[(4-phenyl-1,3-thiazol-2-yl)methyl]amino}benzyl)oxy]phenyl}propanoic acid
To a mixture of 4-phenyl-1,3-thiazole-2-carbaldehyde (380 mg, 2.0 mmol), methyl 3-{4-[(4-aminobenzyl)oxy]phenyl}-propanoate (570 mg, 2.0 mmol), acetic acid (0.1 mL) and 1,2-dichloroethane (5 mL) was added sodium triacetoxyborohydride (1.2 g, 5.7 mmol) under ice-cooling. The mixture was allowed to warm to room temperature and stirred for 1 hr. Phenylacetoaldehyde (35-50% diethyl phthalate solution, 480 mg) was added to the reaction mixture, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:2 in volume ratio) to give a yellow oil. To a mixture of the oil, ethanol (5 mL) and tetrahydrofuran (5 mL) was added 2N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was diluted with water, neutralized with 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was concentrated and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4-4:1 in volume ratio) to give the title compound (267 mg, yield 24%) as a yellow oil.

reactant | 4-phenyl-1,3-thiazole-2-carbaldehyde | 2.0 mmol, 380 mg | C1(=CC=CC=C1)C=1N=C(SC1)C=O | C10H7NOS
reactant | methyl 3-{4-[(4-aminobenzyl)oxy]phenyl}-propanoate | 2.0 mmol, 570 mg | NC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C17H19NO3
reactant | sodium triacetoxyborohydride | 5.7 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Phenylacetoaldehyde | 480 mg | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 3-{4-[(4-{(2-phenylethyl)[(4-phenyl-1,3-thiazol-2-yl)methyl]amino}benzyl)oxy]phenyl}propanoic acid | 267 mg, yield 24% | C1(=CC=CC=C1)CCN(C1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)CC=1SC=C(N1)C1=CC=CC=C1 | C34H32N2O3S
